US05735910
Preparation of 2-nitro-4-amino-5-(parahydroxyphenyl)thio-N-(methyl)aniline
11.5 g (0.057 mol) of 2-nitro-4-amino-5-chloro-N-(methyl)aniline and 11.9 g (0.085 mol) of 4-mercaptophenol were used as the starting materials to give brown-orange crystals (11.3 g) recrystallized from 96° ethanol and melting at 206° C., whose elemental analysis calculated for C13H13N3O3S was:

reactant | 2-nitro-4-amino-5-chloro-N-(methyl)aniline | 0.057 mol, 11.5 g | [N+](=O)([O-])C1=C(NC)C=C(C(=C1)N)Cl | C7H8ClN3O2
reactant | 4-mercaptophenol | 0.085 mol, 11.9 g | SC1=CC=C(C=C1)O | C6H6OS
product | 2-nitro-4-amino-5-(parahydroxyphenyl)thio-N-(methyl)aniline | 11.3 g | [N+](=O)([O-])C1=C(NC)C=C(C(=C1)N)SC1=CC=C(C=C1)O | C13H13N3O3S
